US05015678
1,2-Bis[3-(4-benzoyloxy-2,2,6,6-tetramethylpiperidin-1-yloxy)-succinimido]benzene
The title compound is prepared from N,N'-1,2-phenylenedimaleimide and 4-benzoyloxy-1-hydroxy-2,2,6,6-tetramethylpiperidine according to the general procedure of Example 6.

reactant | N,N'-1,2-phenylenedimaleimide | C1(=C(C=CC=C1)N1C(C=CC1=O)=O)N1C(C=CC1=O)=O | C14H8N2O4
reactant | 4-benzoyloxy-1-hydroxy-2,2,6,6-tetramethylpiperidine | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C16H23NO3
product | 1,2-Bis[3-(4-benzoyloxy-2,2,6,6-tetramethylpiperidin-1-yloxy)-succinimido]benzene | C(C1=CC=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OC1CC(=O)N(C1=O)C1=C(C=CC=C1)N1C(CC(C1=O)ON1C(CC(CC1(C)C)OC(C1=CC=CC=C1)=O)(C)C)=O)(C)C | C46H54N4O10
